data/mechanisms/records/IMS4-EQ4.17b.json
{"mechanism_id": "IMS4-EQ4.17b", "species": [{"species_id": "methyl_3_hexanol_molecular_ion", "mapped_smiles": "[CH3:4][CH2:3][CH2:2][C:1]([CH3:7])([CH2:5][CH3:6])[OH+:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propyl_methyl_hydroxycarbenium_mz87", "mapped_smiles": "[CH3:4][CH2:3][CH2:2][C:1]([CH3:7])=[OH+:8]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH2:5][CH3:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyl_3_hexanol_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["propyl_methyl_hydroxycarbenium_mz87", "ethyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage_loss_ethyl", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_4_17b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_loss_ethyl", "support_type": "textbook_proposed", "locator": {"page": 61, "equation": "4.17", "figure": "Figure 4.2 (mass spectrum of 3-methyl-3-hexanol)", "panel": "loss of C2H5*, product printed second: [C3H7C(CH3)=OH]+ m/z 87, 50%", "section": "4.6 Radical-site initiation (alpha-cleavage)"}, "confidence": 0.9, "curator_note": "Book draws 2 arc(s) for this pathway; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). ARC COUNT, verified by zooming the scan: the single structure carries FOUR arcs in total - one SOLID fishhook from the odd electron drawn as '+.' on the hydroxyl oxygen, ending with a half-arrowhead (barb) on the C-O bond, plus THREE DASHED fishhooks that each start at one of the three alpha C-C bonds (C-CH3 from above, C-C3H7 and C-C2H5 from below) and end with a barb on that same C-O bond. The three dashed arcs are the three competing alpha cleavages superimposed on one drawing; this record takes the two arcs of the C-C2H5 channel (the shared solid oxygen hook = move 1, the dashed C(1)-C(5) hook = move 2). The third electron of the homolysis, the one that departs with the ethyl radical, is NOT drawn - the book prints only the resulting ion. LOCALIZATION (convention B): the page places both the charge and the odd electron on oxygen ('+.' beside OH), and the precursor SMILES writes that literally as [OH+:8] with two bonds and one unpaired electron. Loss of the ethyl radical is the intermediate-rate channel of the three: m/z 73 (100%) > m/z 87 (50%) > m/z 101 (10%), i.e. the larger the expelled radical the faster the cleavage."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_87", "species_id": "propyl_methyl_hydroxycarbenium_mz87", "step_id": "step_alpha_cleavage_loss_ethyl", "observed_mz": 87.0804, "relative_intensity": 0.5, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.95}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-23T00:00:00Z", "modified_at": "2026-07-23T00:00:00Z"}}
